US05403934
3-(4-(4-trifluoromethoxyphenoxy)phenyl)-2,6-dimethylpyran-4-one
To a vigorously stirred mixture of polyphosphoric acid (60 g) and acetic anhydride (26 ml) at 90° was added over 15 min a solution of 4-(4-trifluoromethoxyphenoxy) phenylpropan-2-one (9.3 g) in acetic anhydride (30 ml). The mixture was stirred for a further 30 min at 90° then poured into water (1 liter) and extracted with toluene (2×500 ml). The combined extracts were washed with water then satd. aq. sodium bicarbonate and dried over magnesium sulphate. Concentration in vacuo gave an orange oil which was chromatographed on silica gel, eluting with dichloromethane then 1:19 methanol/dichloromethane, to give the title compound as an oil (4.1 g), NMR δH (CDCl3) 6.9-7.4 (8H, m), 6.16 (1H, s), 2.24 (3H, s), 2.16 (3H, s).

reactant | 4-(4-trifluoromethoxyphenoxy) phenylpropan-2-one | 9.3 g | FC(OC1=CC=C(OC2=CC=C(C=C2)CC(C)=O)C=C1)(F)F | C16H13F3O3
reactant | water | 1 liter | O | H2O
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 26 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-(4-trifluoromethoxyphenoxy)phenyl)-2,6-dimethylpyran-4-one | 4.1 g | FC(OC1=CC=C(OC2=CC=C(C=C2)C2=C(OC(=CC2=O)C)C)C=C1)(F)F | C20H15F3O4
